### PR TITLE
[Merged by Bors] - feat(GroupTheory/Coset): add `mk_mul_eq_iff` and a left cancel lemma

### PR DESCRIPTION
**Pull request by JX-Mo**
Add a simp lemma saying "`abH = acH` iff `bH = cH`" for left cosets

`MulAction.Quotient.smul_mk, smul_eq_mul` are simp lemmas and they will turn `a • bH` into `abH`

### CODE REVIEW

**Comment by JX-Mo** [comment]
easy

File: Mathlib/GroupTheory/Coset/Defs.lean
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Coset/Defs.lean]:
```suggestion
variable {s} {a b c : α}
```

File: Mathlib/GroupTheory/Coset/Defs.lean [hunk 1]
```diff
@@ -222,6 +222,16 @@ variable {s} {a b : α}
 theorem mk_mul_of_mem (a : α) (hb : b ∈ s) : (mk (a * b) : α ⧸ s) = mk a := by
   rwa [QuotientGroup.eq, mul_inv_rev, inv_mul_cancel_right, s.inv_mem_iff]
 
+@[to_additive]
+theorem mk_mul_eq_iff {a b c : α} :
+    (mk (a * b) : α ⧸ s) = mk c ↔ (mk b : α ⧸ s) = mk (a⁻¹ * c) := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Coset/Defs.lean]:
```suggestion
theorem mk_mul_eq_iff : (mk (a * b) : α ⧸ s) = mk c ↔ (mk b : α ⧸ s) = mk (a⁻¹ * c) := by
```

File: Mathlib/GroupTheory/Coset/Defs.lean [hunk 2]
```diff
@@ -222,6 +222,16 @@ variable {s} {a b : α}
...
+  simp [QuotientGroup.eq, mul_assoc]
+
+@[to_additive (attr := simp)]
+theorem mk_mul_left_cancel_iff {a b c : α} :
+    (mk (a * b) : α ⧸ s) = mk (a * c) ↔ (mk b : α ⧸ s) = mk c := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Coset/Defs.lean]:
```suggestion
theorem mk_mul_left_cancel_iff : (mk (a * b) : α ⧸ s) = mk (a * c) ↔ (mk b : α ⧸ s) = mk c := by
```

**Review by Ruben-VandeVelde — APPROVED** [review]
Seems sensible

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

File: Mathlib/GroupTheory/Coset/Defs.lean (hunk 2 above)
Comment (JX-Mo) [reply Mathlib/GroupTheory/Coset/Defs.lean]: Thanks!

**Comment by JX-Mo** [comment]
Thanks!

bors r+
